US06864396B2
A mixture of 215.39 grams of aluminum chloride, 83.89 grams of benzene-1,2,4,5-tetracarboxylic acid dianhydride (pyromellitic dianhydride), and 533.85 grams of 1,2-dichloroethane was stirred at 15° C. to 16° C. To this mixture was added a solution of 183 grams of (2-ethylhexyl)benzene and 53.685 grams of N,N-diisopropylethylamine in 198 mL of 1,2-dichloroethane over a period of 3.5 hours keeping the reaction temperature between 15° C. and 20° C. The mixture was stirred overnight at room temperature and then added to 400 g of ice and 400 mL concentrated hydrochloric acid. This mixture was stirred for 1 hour. The mixture was extracted with ethyl acetate. The organic phase was washed with water and brine, dried, and stripped. The resulting solid was stirred with 700 mL ethyl acetate for 10 minutes and 2000 mL of heptane was added. This mixture was stirred for 15 minutes and then filtered. The residue was washed with a mixture of 275 mL ethylacetate/825 mL heptane and air dried to give 2,5-Bis(4-(2-ethylhexyl)benzoyl)terephthalic acid.

reactant | aluminum chloride | 215.39 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzene-1,2,4,5-tetracarboxylic acid dianhydride | 83.89 grams | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O | C10H2O6
reactant | (2-ethylhexyl)benzene | 183 grams | C(C)C(CC1=CC=CC=C1)CCCC | C14H22
reactant | N,N-diisopropylethylamine | 53.685 grams | C(C)(C)N(C(C)C)CC | C8H19N
reactant | hydrochloric acid | 400 mL | Cl | ClH
solvent | 1,2-dichloroethane | 198 mL | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 533.85 grams | ClCCCl | C2H4Cl2
product | 2,5-Bis(4-(2-ethylhexyl)benzoyl)terephthalic acid | C(C)C(CC1=CC=C(C(=O)C2=C(C(=O)O)C=C(C(=C2)C(=O)O)C(C2=CC=C(C=C2)CC(CCCC)CC)=O)C=C1)CCCC | C38H46O6
